US07173129B2
Ex-57A: A solution of 4-acetyl-N-pyridin-2-ylbenzenesulfonamide (Ex-5A, 451 mg, 1.63 mmol) and 5-(2-aminophenylethynyl)-2,4-dimethoxybenzaldehyde (Ex-35C, 459 mg, 1.63 mmol) in DMF (10.0 mL) and MeOH (5.0 mL) was treated with lithium methoxide (248 mg, 6.52 mmol). The reaction mixture was stirred at room temperature for 3 h under nitrogen, quenched with water (50 mL), and extracted with (3:1) ethyl acetate/THF (4×30 mL). The combined organic phase was brined, dried over sodium sulfate, and concentrated to a yellow oil. The crude material was purified by column chromatography (2–5% MeOH in dichloromethane) to give 735 mg (65%) of 4-{3E-[5-(2-amino-phenylethynyl)-2,4-dimethoxyphenyl]acryloyl}-N-pyridin-2-yl-benzenesulfonamide as a yellow oil. 1H-NMR (300 MHz, DMSO-d6) 8.21 (d, 2H, J=7.5), 8.18 (s, 1H), 8.00 (m, 4H), 7.81 (d, 1H, J=15.0 Hz), 7.74 (t, 2H, J=7.5 Hz), 7.17 (m, 2H), 7.05 (t, 2H, J=7.2 Hz), 6.80 (m, 3H), 6.52 (t, 1H), J=7.5 Hz), 5.43 (d, 1H, J=6.9 Hz), 3.96 (s, 3H), 3.95 (s, 3H).

reactant | 4-acetyl-N-pyridin-2-ylbenzenesulfonamide | 1.63 mmol, 451 mg | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C13H12N2O3S
reactant | 5-(2-aminophenylethynyl)-2,4-dimethoxybenzaldehyde | 1.63 mmol, 459 mg | NC1=C(C=CC=C1)C#CC=1C(=CC(=C(C=O)C1)OC)OC | C17H15NO3
reactant | lithium methoxide | 6.52 mmol, 248 mg | C[O-].[Li+]
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 5.0 mL | CO | CH4O
product | 4-{3E-[5-(2-amino-phenylethynyl)-2,4-dimethoxyphenyl]acryloyl}-N-pyridin-2-yl-benzenesulfonamide | 735 mg, 65% | NC1=C(C=CC=C1)C#CC=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1)OC)OC | C30H25N3O5S
